US05294597
Preparation of N-(2,4-difluorophenyl)-2-(3-chlorophenoxy)-6-pyridinecarboxamide
A solution of sodium methoxide (from 0.26 g sodium in 10 ml methanol) was added to a solution of 3-chlorophenol (1.4 g) in xylene (20 ml). The solvents were evaporated in vacuo to give the dry sodium phenolate. Pyridine (10 ml) and xylene (20 ml) were added, followed by cuprous chloride (0.3 g) and the mixture heated to reflux. A solution of N-(2,4-difluorophenyl)-2-chloro-6-pyridinecarboxamide (2.6 g) in xylene (10 ml) was added dropwise and the mixture refluxed for a further 13 hours. After cooling, the mixture was poured into water (100 ml) and acidified with dilute hydrochloric acid. The organic phase was separated and the aqueous phase dried over anhydrous magnesium sulphate and evaporated. The residue was purified on a silica gel column using dichloromethane as eluant to give the title compound (2.5 g). Recrystallisation from 40-60 petroleum ether gave the title compound as a white solid of melting point 116°-117° C.

reactant | Pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | N-(2,4-difluorophenyl)-2-chloro-6-pyridinecarboxamide | 2.6 g | FC1=C(C=CC(=C1)F)NC(=O)C1=CC=CC(=N1)Cl | C12H7ClF2N2O
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(2,4-difluorophenyl)-2-(3-chlorophenoxy)-6-pyridinecarboxamide | 2.5 g | FC1=C(C=CC(=C1)F)NC(=O)C1=CC=CC(=N1)OC1=CC(=CC=C1)Cl | C18H11ClF2N2O2
